US07541481B2
2-[2-(1H-inden-3-yl)ethyl]pyridine (14.88 g, 0.0637 mol) was dissolved in 190 ml of diethylether. The resulting solution was cooled to −90° C. and then 15% n-butyllithium in hexane (42.08 ml, 67.3 mmol) added. The resulting mixture was stirred at this temperature for an additional 30 min and then allowed to reach room temperature. After additional stirring for 1 h at room temperature, the mixture was cooled to −90° C. and was then treated with a solution of SiMe3Cl (9.4 ml, 74 mmol) in 10 ml of diethylether. The resulting mixture was allowed to warm to room temperature and then stirred for 12 h. Then the mixture was first treated with water and then aqueous ammonium chloride solution. The organic phase was separated and the aqueous phase extracted three times with diethylether. The combined organic phase was washed with brine and dried over MgSO4. After filtration, the solvent was removed from the filtrate to give 15.97 g (81%) of 2-{2-[1-(trimethylsilyl)-1H-inden-3-yl]ethyl}pyridine as an oil, which was used in the next stage without separation.

reactant | 2-[2-(1H-inden-3-yl)ethyl]pyridine | 0.0637 mol, 14.88 g | C1C=C(C2=CC=CC=C12)CCC1=NC=CC=C1 | C16H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 67.3 mmol, 42.08 ml | CCCCCC | C6H14
reactant | SiMe3Cl | 74 mmol, 9.4 ml | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethylether | 190 ml | C(C)OCC | C4H10O
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 2-{2-[1-(trimethylsilyl)-1H-inden-3-yl]ethyl}pyridine | 15.97 g, 81% | C[Si](C1C=C(C2=CC=CC=C12)CCC1=NC=CC=C1)(C)C | C19H23NSi
